US08563575B2
Di-tert-butyl dicarbonate (17.05 mL) was added to a solution of 2,5-dichloropyridin-3-amine (11.4 g) and NaHMDS (81 mL) in THF (dry) (200 mL) at 0° C. The mixture was stirred at 0° C. under a dry atmosphere for 1 h. The mixture was neutralized with 1N HCl at 0° C. and extracted with EtOAc. The organic layer was separated, washed with water and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by column chromatography (NH silica gel, eluted with 0%-20% EtOAc in hexane) to give tert-butyl 2,5-dichloropyridin-3-ylcarbamate (15.6 g) as colorless oil. The mixture of tert-butyl 2,5-dichloropyridin-3-ylcarbamate (7.5 g), 4-benzyloxyaniline hydrochloride (10.08 g), 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (1.319 g), Pd2(dba)3 (1.044 g) and sodium tert-butoxide (6.57 g) in toluene (160 mL)-2-propanol (40.0 mL) was stirred at 100° C. under Ar overnight. The reaction mixture was concentrated in vacuo. The residue was purified by column chromatography (silica gel, eluted with 0%-100% EtOAc in hexane) to give intermediate. To the intermediate in DMF (100 mL) were added 2-iodopropane (5.69 mL) and NaH (2.280 g), and the mixture was stirred at room temperature under a dry atmosphere (CaCl2 tube) for 1 h. The reaction mixture was diluted with MeOH and concentrated in vacuo. The residue was purified by column chromatography (NH silica gel, eluted with 0%-50% EtOAc in hexane) to give 3-[4-(benzyloxy)phenyl]-6-chloro-1-(1-methylethyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (560 mg) as a colorless solid.

reactant | Di-tert-butyl dicarbonate | 17.05 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2,5-dichloropyridin-3-amine | 11.4 g | ClC1=NC=C(C=C1N)Cl | C5H4Cl2N2
reactant | NaHMDS | 81 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | tert-butyl 2,5-dichloropyridin-3-ylcarbamate | 15.6 g | ClC1=NC=C(C=C1NC(OC(C)(C)C)=O)Cl | C10H12Cl2N2O2
